US06103902
12.5 g (33.5 mmol) of 4-[4,6-dichloro-5-(2-methoxy-phenoxy)-pyrimidine-2-yl]-pyridine-2-carbonitrile and 6.06 g (35 mmol) of 5-methyl-pyridine-2-sulfonamide were added to 130 ml of acetone. 15 g of potassium carbonate and 190 mg (1.6 mmol) of 1,4-diazobicyclo[2.2.2]octane were added and the suspension was stirred at 40° C. for 5 hr and at 20° C. for 15 hr. Then 50 ml of de-ionized water were added followed by dropwise addition of 50 ml of 3 N hydrochloric acid (pH of the solution=1). Acetone was removed by evaporation and the suspension was stirred for 1 hr. The solid was filtered and washed with 100 ml of water. The residue was heated (reflux) in 100 ml of methanol for 1 hr followed by cooling to 20° C. The solid was filtered and dried at 80° C., 2000 Pa for 16 hr. There were obtained 16.0 g (93% of theory) of 5-methyl-pyridine-2-sulfonic acid [6-chloro-2-(2-cyano-pyridine-4-yl)-5-(2-methoxy-phenoxy)-pyrimidine-4-yl]-amide with a HPLC purity of 90.3% (w/w).

reactant | 4-[4,6-dichloro-5-(2-methoxy-phenoxy)-pyrimidine-2-yl]-pyridine-2-carbonitrile | 33.5 mmol, 12.5 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC(=NC=C1)C#N | C17H10Cl2N4O2
reactant | 5-methyl-pyridine-2-sulfonamide | 35 mmol, 6.06 g | CC=1C=CC(=NC1)S(=O)(=O)N | C6H8N2O2S
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 3 N, 50 ml | Cl | ClH
catalyst | 1,4-diazobicyclo[2.2.2]octane | 1.6 mmol, 190 mg | C1CN2CCN1CC2 | C6H12N2
solvent | water | 50 ml | O | H2O
solvent | acetone | 130 ml | CC(=O)C | C3H6O
product | 5-methyl-pyridine-2-sulfonic acid [6-chloro-2-(2-cyano-pyridine-4-yl)-5-(2-methoxy-phenoxy)-pyrimidine-4-yl]-amide | 16.0 g, 93% | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C#N)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC | C23H17ClN6O4S
